US04925838
To a solution of sodium hydride (0.35 g) in N,N-dimethylformamide (30 ml) was added dropwise thioacetic S-acid (0.74 ml) with stirring under ice-cooling. The mixture was stirred at the same temperature for 30 minutes. A solution of (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (3.17 g) in N,N-dimethylformamide (7 ml) was added to the mixture obtained above with stirring at the same temperature. The mixture was stirred at 80°-90° C. for 2 hours. The reaction mixture was poured into ice-water (100 ml) and extracted twice with ethyl acetate (100 ml). The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-4-acetylthio-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1(4 -nitrobenzyloxycarbonyl)pyrrolidine (1.74 g).

reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | thioacetic S-acid | 0.74 ml | C(C)(=O)S | C2H4OS
reactant | (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 3.17 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(N(CC1)C)=O | C18H24N4O8S
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-acetylthio-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1(4 -nitrobenzyloxycarbonyl)pyrrolidine | 1.74 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(N(CC1)C)=O | C19H24N4O6S
